US04782147
In 20 ml of ethyl acetate is dissolved 940 mg of 2,2-dimethyl-7-azido-1-aza-3-oxabicyclo[4,2,0]octan-8-one (1:4 cis-trans mixture) and catalytic reduction is carried out using 300 mg of 10% palladium-on-carbon (wet). The catalyst is then filtered off and washed with ethyl acetate. The filtrate and washings are combined and concentrated to about 20 ml. Then, 4 ml of propylene oxide and 0.9 ml of carbobenzoxy chloride are added and the mixture is stirred at room temperature for 1.5 hours and concentrated. The residue is subjected to column chromatography using silica gel (60 g), elution being carried out with chloroform-ethyl acetate (6:4) to give 388 mg of cis-(2,2-dimethyl-7-benzyloxyformamido-1-aza-3-oxabicyclo[4,2,0]octan-8-one) as the first product.

reactant | 2,2-dimethyl-7-azido-1-aza-3-oxabicyclo[4,2,0]octan-8-one | 940 mg | CC1(N2C(C(C2CCO1)N=[N+]=[N-])=O)C | C8H12N4O2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 300 mg | [Pd] | Pd
product | cis-(2,2-dimethyl-7-benzyloxyformamido-1-aza-3-oxabicyclo[4,2,0]octan-8-one) | 388 mg | CC1(N2C([C@@H]([C@H]2CCO1)NC(=O)OCC1=CC=CC=C1)=O)C | C16H20N2O4
